US05026856
150 mg of 7-(2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester was dissolved in a mixture of 10 ml of 10% hydrochloric acid and 10 ml of ethanol. The mixture was heated under reflux for 2 hours. The precipitates deposited were collected by filteration, and washed with water and ethanol in this order to obtain 107 mg of 7-(2- isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8- naphthyridine-3-carboxylic acid.

reactant | 7-(2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)N1CC2=CC=CC=C2C1)C1CC1 | C22H20FN3O3
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-(2- isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8- naphthyridine-3-carboxylic acid | 107 mg | C1N(CC2=CC=CC=C12)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C20H16FN3O3
